US04652584
A solution of 30.0 g (0.108 mole) of [(2-iodophenoxy)methyl]oxirane and 110 ml (1 mole) of t-butylamine in 62 ml of sulfolane was heated in an autoclave for two hours. The excess t-butylamine was evaporated in vacuo. The residue was dissolved in ether and the ether solution washed with water and brine. The solution was dried (K2CO3), and the solvent was evaporated in vacuo. A hydrochloride salt was prepared by adding ethereal hydrogen chloride to an ether solution of the residue. There was obtained 25 g (53% yield) of crystalline 1-[(1,1-dimethylethyl)amino]-3-(2-iodophenoxy)-2-propanol hydrochloride, mp 184° to 185° C.

reactant | [(2-iodophenoxy)methyl]oxirane | 0.108 mole, 30.0 g | IC1=C(OCC2OC2)C=CC=C1 | C9H9IO2
reactant | t-butylamine | 1 mole, 110 ml | C(C)(C)(C)N | C4H11N
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | sulfolane | 62 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-[(1,1-dimethylethyl)amino]-3-(2-iodophenoxy)-2-propanol hydrochloride | 25 g, 53% yield | Cl.CC(C)(C)NCC(COC1=C(C=CC=C1)I)O | InChI=1S/C13H20INO2.ClH/c1-13(2,3)15-8-10(16)9-17-12-7-5-4-6-11(12)14;/h4-7,10,15-16H,8-9H2,1-3H3;1H
